US04399141
A mixture of 71.3 g of 10-bromo-5H-dibenzo[a,d]cyclohepten-5-one, 50 ml. of piperidine, 1 liter of t-butanol and finally 33.6 g of potassium t-butoxide was stirred under reflux 2 hours, then at room temperature overnight. The mixture was filtered, and concentrated to dryness. The residue was slurried with water and decanted. The residue was slurried with methanol and filtered to give 59.8 g of 10-(1-piperidyl)-5H-dibenzo[a,d]cyclohepten-5-one, m.p. 103°-105° C.

reactant | 10-bromo-5H-dibenzo[a,d]cyclohepten-5-one | 71.3 g | BrC1=CC2=C(C(C3=C1C=CC=C3)=O)C=CC=C2 | C15H9BrO
reactant | piperidine | N1CCCCC1 | C5H11N
reactant | potassium t-butoxide | 33.6 g | CC(C)([O-])C.[K+]
solvent | t-butanol | 1 liter | C(C)(C)(C)O | C4H10O
product | 10-(1-piperidyl)-5H-dibenzo[a,d]cyclohepten-5-one | 59.8 g | N1(CCCCC1)C1=CC2=C(C(C3=C1C=CC=C3)=O)C=CC=C2 | C20H19NO
